US07847092B2
280 mg (1.0 mmol) of 2-(3-methanesulfonyloxypropoxy)naphthalene and 456 mg (3.0 mmol) of cesium fluoride are added to a solvent of 4.0 mL of t-butanol. The reaction mixture is stirred for 6 hrs at 80° C. 7 mL of ethyl ether is added to the reaction mixture to remove metal salts. After filtration, the filtrate is concentrated by reduced pressure distiller. 188 mg (92% yield) of 2-(3-fluoropropoxy)naphthalene is obtained by column chromatography (ethyl acetate:n-hexane=1:20).

reactant | 2-(3-methanesulfonyloxypropoxy)naphthalene | 1.0 mmol, 280 mg | CS(=O)(=O)OCCCOC1=CC2=CC=CC=C2C=C1 | C14H16O4S
reactant | cesium fluoride | 3.0 mmol, 456 mg | [F-].[Cs+]
reactant | t-butanol | 4.0 mL | C(C)(C)(C)O | C4H10O
reactant | ethyl ether | 7 mL | C(C)OCC | C4H10O
solvent | n-hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-fluoropropoxy)naphthalene | 188 mg, 92% yield | FCCCOC1=CC2=CC=CC=C2C=C1 | C13H13FO
